US07943612B2
{4-[3-(3-Bromo-5-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid
To a solution of {4-[3-(3-bromo-5-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester (66 mg, 0.14 mmol) in THF (1.5 ml) and methanol (0.3 ml) was added a ice-cold solution of LiOH (1 M, 2 ml). The reaction mixture was stirred at 0° C. for 45 min., after which water (10 ml) and aqueous HCl (1M, 2 ml) were added. The mixture was extracted with ethyl acetate (2×5 ml), and the combined organic phases were dried and evaporated to give the title compound in 64 mg (100%) yield.

reactant | {4-[3-(3-bromo-5-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester | 0.14 mmol, 66 mg | COC(COC1=CC=C(C=C1)OCC#CC1=CC(=CC(=C1)C#CC1=CC=CC=C1)Br)=O | C26H19BrO4
reactant | LiOH | 1 M, 2 ml | [Li+].[OH-]
reactant | water | 10 ml | O | H2O
reactant | HCl | 1M, 2 ml | Cl | ClH
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 0.3 ml | CO | CH4O
product | {4-[3-(3-Bromo-5-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid | BrC=1C=C(C=C(C1)C#CC1=CC=CC=C1)C#CCOC1=CC=C(OCC(=O)O)C=C1 | C25H17BrO4
